US07491827B2
To a solution of 1-benzyl-3-methyl-piperidin-4-one (7.0 g, 34 mmol) and MeI (2.4 mL) in THF (100 mL) was added NaOt-Bu (4.2 g, 44 mmol) at 0° C. The reaction was slowly allowed to warm to room temperature and stirred overnight. The aqueous layer was extracted with CH2Cl2. The organic extracts were combined, washed with brine and dried over MgSO4. The solution was filtered and concentrated in vacuo to give the crude product. Flash column chromatography (Hexane/EtOAc, gradient) of the residue gave 1-benzyl-3,3-dimethyl-piperidin-4-one, which was converted into 1-benzyl-3,3-dimethyl-piperidin-4-ylamine (2) using the same procedure as in Scheme 1-1. LC/MS m/z: 220 (M+H)+. This material was used without further purification.

reactant | 1-benzyl-3-methyl-piperidin-4-one | 34 mmol, 7.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | MeI | 2.4 mL | CI | CH3I
reactant | NaOt-Bu | 44 mmol, 4.2 g | CC(C)(C)[O-].[Na+]
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3,3-dimethyl-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
